US09145392B2
4-Amino-6-{4-[1-(2-azetidin-1-yl-ethyl)-4-cyclohexyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile (“77”)
The title compound was prepared in an analogous manner as 4-amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile using 4-[1-(2-azetidin-1-yl-ethyl)-4-cyclohexyl-1h-imidazol-2-yl]-piperidine trifluoroacetate instead of 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1h-imidazol-2-yl]-piperidine. LC-MS: (M+1=435, obsd.=435).

reactant | 4-amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C | C21H19F4N7
reactant | 4-[1-(2-azetidin-1-yl-ethyl)-4-cyclohexyl-1h-imidazol-2-yl]-piperidine trifluoroacetate | FC(C(=O)O)(F)F.N1(CCC1)CCN1C(=NC(=C1)C1CCCCC1)C1CCNCC1
product | 4-Amino-6-{4-[1-(2-azetidin-1-yl-ethyl)-4-cyclohexyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1CCCCC1)CCN1CCC1 | C24H34N8
